US07592358B2
51.1b. 3-(6-isopropylaminopyridin-3-yl)propionaldehyde
A mixture of 1.80 g (6.87 mmol) of (5-iodopyridin-2-yl)isopropylamine, 1.40 mL (10.7 mmol) of prop-2-en-1-ol, 1.39 g (16.49 mmol) of sodium hydrogen carbonate, 1.72 g (6.18 mmol) of tetrabutylammonium chloride, and 46 mg (0.20 mmol) of palladium (II) acetate in 10 mL of DMF was stirred under argon for 20 hours at 50° C. The reaction mixture was diluted with water and EtOAc, the organic phase was separated off, washed several times with water, and dried over magnesium sulfate. After the desiccant and solvent had been eliminated, the residue was purified by chromatography (silica gel, PE/EtOAc 1:1). Yield: 300 mg (23% of theoretical); ClIH16N2O (M=192.258); calc.: molpeak (M+H)+:193; found: molpeak (M+H)+:193; HPLC-MS: 3.58 minutes (method G).

reactant | (5-iodopyridin-2-yl)isopropylamine | 6.87 mmol, 1.80 g | IC=1C=CC(=NC1)NC(C)C | C8H11IN2
reactant | prop-2-en-1-ol | 10.7 mmol, 1.40 mL | C(C=C)O | C3H6O
reactant | sodium hydrogen carbonate | 16.49 mmol, 1.39 g | C(O)([O-])=O.[Na+]
catalyst | tetrabutylammonium chloride | 6.18 mmol, 1.72 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium (II) acetate | 0.20 mmol, 46 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(6-isopropylaminopyridin-3-yl)propionaldehyde | C(C)(C)NC1=CC=C(C=N1)CCC=O | C11H16N2O
